US06177452B1
Sodium hydride(oil, 60%, 710 mg) was gradually added to a mixture of ethyl 2-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]-2-oxoacetate(4.63 g), 2-methylimidazole(1.45 g) and N,N-dimethylformamide(50 ml) at 0° C. After stirring for 1 hour at room temperature, the reaction mixture was poured into ice water to give ethyl 2-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]-2-oxoacetate(3.12 g, 59%). This was recrystallized from ethyl acetate-hexane to give colorless prisms. mp 126-127° C.

reactant | Sodium hydride | 710 mg | [H-].[Na+]
reactant | ethyl 2-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]-2-oxoacetate | 4.63 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)C(C(=O)OCC)=O | C13H9Cl2NO4
reactant | 2-methylimidazole | 1.45 g | CC=1NC=CN1 | C4H6N2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]-2-oxoacetate | 3.12 g, 59% | ClC1=CC=C(C=C1)C=1N=C(OC1C(C(=O)OCC)=O)N1C(=NC=C1)C | C17H14ClN3O4
